US05136080
4. 2,4-Diamino-5-(2,3-dichlorophenyl)-6-fluoromethylpyrimidine
To a stirred suspension of 2,4-diamino-5-(2,3-dichlorophenyl)-6-hydroxymethylpyrimidine (185 mg; 1 mmol) in dry dichloromethane (25 ml), under nitrogen at -70° C., was added dropwise diethylaminosulphur trifluoride (263 μl; 2 mmol). The mixture was allowed to warm to 0° C. and kept at this temperature for 4 hours. After cooling to -70° C. the mixture was quenched with aqueous sodium bicarbonate, extracted with dichloromethane (2×50 ml), washed with saturated brine and dried (MgSO4). Concentration gave a colourless gum (0.2 g). Chromatography on silica gel, eluting with 0.01:1:19 Et3N:MeOH:CH2Cl2 gave the desired product which was triturated with CCl4 and dried in vacuo. 111 mg, mp. 224°-6° C.

reactant | 2,4-diamino-5-(2,3-dichlorophenyl)-6-hydroxymethylpyrimidine | 1 mmol, 185 mg | NC1=NC(=C(C(=N1)N)C1=C(C(=CC=C1)Cl)Cl)CO | C11H10Cl2N4O
reactant | diethylaminosulphur trifluoride | 2 mmol, 263 μl | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2,4-Diamino-5-(2,3-dichlorophenyl)-6-fluoromethylpyrimidine | 0.2 g | NC1=NC(=C(C(=N1)N)C1=C(C(=CC=C1)Cl)Cl)CF | C11H9Cl2FN4
